US09328114B2
8-(6-amino-2,3-dihydrobenzofuran-5-ylthio)-9H-purin-6-amine (S7-2).
The mixture of S7-1 (80 mg, 0.31 mmol), 8-mercaptoadenine (52 mg, 0.3 mmol), neocuproine (7 mg, 0.03 mmol), CuI (7 mg, 0.03 mmol) and sodium t-butoxide (100 mg, 1.04 mmol) was suspended in 10 mL of DMF and stirred at 110° C. overnight. The mixture was concentrated under reduced pressure and the residue purified by flash chromatography (hexane:EtOAc, 90:10 to 20:80) to yield S7-2 (50 mg, 56%) as a pale yellow solid. 1H NMR (500 MHz, CDCl3) δ 8.15 (s, 1H), 7.33 (s, 1H), 6.35 (s, 1H), 4.57 (t, J=8.5 Hz, 2H), 3.14 (t, J=8.4 Hz, 2H); MS (ESI) m/z 301.0 [M+H]+.

reactant | 8-mercaptoadenine | 0.3 mmol, 52 mg | SC1=NC2=NC=NC(=C2N1)N | C5H5N5S
reactant | neocuproine | 0.03 mmol, 7 mg | CC=1C=CC=2C=CC=3C=CC(=NC3C2N1)C | C14H12N2
reactant | sodium t-butoxide | 1.04 mmol, 100 mg | CC(C)([O-])C.[Na+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.03 mmol, 7 mg | [Cu]I
product | 8-(6-amino-2,3-dihydrobenzofuran-5-ylthio)-9H-purin-6-amine | NC1=CC2=C(CCO2)C=C1SC=1NC2=NC=NC(=C2N1)N | C13H12N6OS
